reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]1[O:3][C@@:6]([O:7][H:10])([H:13])[C@@:4]1([O:5][H:12])[H:11])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],38.7353641257378
[C:1]([C:2]([C:3]([C:4]#[C:5][C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[C:4]=[C:5]([C:6]([H:14])([H:15])[H:16])[H:9])([H:12])[H:13],60.4107809789351
[C:4]=[N:5][H:7].[O:1]([C:2](=[C:3]([H:9])[H:10])[H:8])[H:6]>>[O:1]([C:2]([C:3]([C:4]#[N:5])([H:9])[H:10])([H:7])[H:8])[H:6],64.47960229824409
[N:1]#[C:2][C-:3]1[C:4]([H:7])([H:8])[N+:5]1([H:6])[H:9]>>[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9],18.777016161697993
[C:1]([N:2]([C-:3]=[O+:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](\[O:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],44.322469911320695
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O+:1](=[C-:2][H:7])[C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1,104.17597004599399
[C:1]([C:2]([C:3](=[O:4])[C:6](=[C:5])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],6.766001894324297
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1]([C+:2]([C:4](=[O:3])[H:9])[C:6](=[O:7])[H:10])([O-:5])[H:8],90.7051704427681
[H:7][H:9].[O:1]=[C:2]=[C:3]([O:4][C:5](=[O:6])[H:10])[H:8]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],42.9652581418039
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([N+:7]#[C-:6])[H:11])([H:8])([H:9])[H:10],60.3497000253615
[O:1]([C@@:2]1([H:8])[C@@:5]([C:4](=[C:3]([H:9])[H:10])[H:11])([H:12])[O:6]1)[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],66.8562626920624
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:5][H:16])=[C:6]=[C:7]([C:4]([H:13])([H:14])[H:15])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10],90.7649542339037
[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([N:2]([C:3][N:4]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],52.199266721819
[O:1]([C:2][N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],33.164595003324216
[C:1]([C:2]1([O:5][C:6]([O:7][H:12])([H:14])[H:15])[C:3]([H:11])=[C:4]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],36.86165309238612
[C:1]([C:2](/[C:3](=[N:5]\[C:4]([C:6]([H:15])([H:16])[H:17])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9],104.8834283123058
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:4][H:13])([H:7])([H:8])[H:9].[C:2](=[C:3]([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11],110.622927062138
[C:3]=[N:4][H:5].[N:1](=[C:2]([H:7])[H:8])[H:6]>>[N:1]([C:2]([C:3]#[N:4])([H:7])[H:8])([H:5])[H:6],30.22530387502439
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:6]1([H:17])[C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[O:7]1)([H:8])([H:9])[H:10],62.7768961502263
[C:1]1([H:6])([H:7])[C@:2]([O:3][H:10])([H:9])[C:4]1=[C:5]([H:8])[H:11]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[C:5][H:11])[H:9])([H:6])([H:7])[H:8],92.78123073590642
[C:1](=[N:2][H:11])([H:8])[H:9].[C:3](=[O:4])([N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],80.42523938215788
[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4](=[C:5]=[N:6][H:10])[H:11])([H:7])([H:8])[H:9],85.3973539530098
[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C:3]1=[N:4][C@:2]1([C:5]#[N:6])[H:9])([H:7])[H:8],94.2058447430357
[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O+:4]=[C-:3][N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],105.10611978420499
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[N:1]#[C:2][C:5]([C:4]([C:3](=[O:6])[H:7])([H:8])[H:9])([H:10])[H:11],95.3364499484484
[C:1]([C:2](=[C:3]=[C:4]=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10],80.5303465418858
